US08357703B2
a) 6-[(3-Butyl-5-methyl-isoxazol-4-ylmethyl)-amino]-nicotinic acid
To a suspension of 6-[(3-butyl-5-methyl-isoxazol-4-ylmethyl)-amino]-nicotinic acid methyl ester (1.09 g, 4.0 mmol) in THF (11 mL) was added a solution of lithium hydroxide monohydrate (302 mg, 7.0 mmol) in water (11 mL) and methanol (11 mL). The resulting mixture was stirred at room temperature overnight. The mixture was acidified to pH 4 with HCl (1 N) and the resulting mixture diluted with diethylether. The aqueous phase was removed and the organic phase triturated with hexane-diethylether to afford the title compound (910 mg, 87%) which was obtained as a white solid. MS: m/e=288.4 [M−H]−.

reactant | 6-[(3-butyl-5-methyl-isoxazol-4-ylmethyl)-amino]-nicotinic acid methyl ester | 4.0 mmol, 1.09 g | COC(C1=CN=C(C=C1)NCC=1C(=NOC1C)CCCC)=O | C16H21N3O3
reactant | lithium hydroxide monohydrate | 7.0 mmol, 302 mg | O.[OH-].[Li+]
reactant | HCl | 1 N | Cl | ClH
solvent | THF | 11 mL | C1CCOC1 | C4H8O
solvent | water | 11 mL | O | H2O
solvent | methanol | 11 mL | CO | CH4O
solvent | diethylether | C(C)OCC | C4H10O
product | 6-[(3-Butyl-5-methyl-isoxazol-4-ylmethyl)-amino]-nicotinic acid | 910 mg, 87% | C(CCC)C1=NOC(=C1CNC1=NC=C(C(=O)O)C=C1)C | C15H19N3O3
